Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
intubation
 
History of Present Illness:
Eu ___ is a ___ year old 
male with known history of epilepsy who was transferred from the 
___ with acute intracranial hemorrhage.  
 His wife states that he had not slept well last night -- waking 
up at 4AM and was unable to fall back asleep. He went to work 
and came home at 18:30, with abrasions and cuts on his face, a 
black eye on the right, and facial bruises. Wife states that he 
seemed "off" and like he was having absence seizures. She 
noticed eyelid fluttering and slowed response times -- typical 
of his absence events. She brought him to ___ where he was 
given Ativan. Later, he became increasingly upset and agitated. 
Wife also notes that he seemed to be staring blankly. It was 
then noticed that he was not using his right arm or leg. Head CT 
showed a 1.9 x 2.4 cm left frontoparietal intracranial 
hemorrhage. He was electively intubed and sedated with propofol 
for airway protection prior to transfer to ___ for further 
evaluation.  
 Of note, his wife also states that he told her earlier this 
evening that he had not been feeling well and had taken 3 Ativan 
tabs at work, which is highly unusual for him.  
 He follows with Dr. ___ in the epilepsy department at 
___. He developed seizures during college, had an approximately 
___ year period of seizure freedom, but seizures recurred when he 
was about ___ years old. He has GTCs and absence seizures, with a 
typical frequency of 1 GTC per year. He is currently treated 
with valproic acid monotherapy (1250 mg QAM, 1000 mg QPM). 
Seizure triggers include stress, sleep deprivation, and alcohol 
use. His wife notes that he gave up alcohol on ___, but she 
is unsure if he has resumed use.  

 
Past Medical History:
- Epilepsy 
 
Social History:
___
___ History:
no history of brain hemorrhage
 
Physical Exam:
On admission:
Vitals: HR: 90 BP: 132/88 RR: 19 SaO2: 100%, (ventilator FiO2: 
60%)  
 *Exam performed with lightened propofol*  
 General: intubated, intermittently coughing and raising LUE/LLE 
against gravity  
 HEENT: abrasions on central forehead, nose; right periorbital 
ecchymosis; significant soft tissue swelling in the Left 
posterior auricular area  
 Abdomen: nondistended  
 Extremities: Warm, no edema or evidence of trauma  
 Neurologic Examination:  
 - Mental status: Somnolent but opens eyes to command. Follows 
simple axial and left-sided appendicular commands. Tracks and 
regards examiner.  
 - Cranial Nerves: PERRL 5->3 brisk. Tracks flashlight to the 
midline and the right visual field, but inconsistent to the left 
side. No facial movement asymmetry. Hearing grossly intact. Gag 
intact, as coughing on tube.  
 - Motor/Sensory: LUE, LLE full and spontaneous anti-gravity 
movements. RUE: extension to noxious stimulation. RLE: plegic.  
 - Reflexes:  
 [Bic] [___] [Quad] [Gastroc]  
 L 2+ 2+ 3+ 2+  
 R 2+ 2+ 3+ 2+  
 Up-going toe on the right, withdraws on the left.  
 - Coordination and gait: deferred  
=====================================
DISCHARGE PHYSICAL EXAM: 
T: 98.4, BP: 133-146/83-95, HR 75-80, RR 18, SaO2 95%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM. R forehead 
laceration, 1 cm, healing. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 
Skin: R ___ puncture site with c/d/i dressing, no ecchymosis, 
no ttp, no hematoma. 

Neurologic:

-Mental Status: Alert, oriented x 3. Language is fluent with 
intermittent word-finding difficulty, intact repetition. Naming 
intact to low frequency words. Comprehension intact to complex 
commands.  

-Cranial Nerves: PERRL 4->3. VFF to confrontation. EOMI without 
nystagmus. Facial sensation intact to light touch. Face 
symmetric at rest and with activation. Hearing intact to 
conversation. 

-Motor: RUE flaccid paralysis. RLE rests in external rotation, 
trace internal rotation to command, no other movement. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc        
L  5    ___      5     5   5    5  5     5          

-Sensory: Intact to LT throughout. 

 
Pertinent Results:
___ 11:45PM BLOOD WBC-9.6 RBC-4.96 Hgb-14.3 Hct-42.0 MCV-85 
MCH-28.8 MCHC-34.0 RDW-12.6 RDWSD-38.5 Plt ___
___ 06:15AM BLOOD WBC-6.1 RBC-4.55* Hgb-13.0* Hct-40.1 
MCV-88 MCH-28.6 MCHC-32.4 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:15AM BLOOD ___ PTT-28.7 ___
___ 11:45PM BLOOD Glucose-125* UreaN-8 Creat-0.8 Na-137 
K-3.7 Cl-99 HCO3-22 AnGap-20
___ 06:15AM BLOOD Glucose-84 UreaN-13 Creat-0.7 Na-141 
K-4.3 Cl-101 HCO3-26 AnGap-18
___ 11:45PM BLOOD ALT-38 AST-28 CK(CPK)-533* AlkPhos-60 
TotBili-0.5
___ 05:40AM BLOOD ALT-34 AST-26 LD(LDH)-254* CK(CPK)-517* 
AlkPhos-59 TotBili-0.6
___ 11:45PM BLOOD Lipase-28
___ 05:40AM BLOOD CK-MB-5 cTropnT-<0.01
___ 11:45PM BLOOD cTropnT-<0.01
___ 05:40AM BLOOD %HbA1c-5.2 eAG-103
___ 05:40AM BLOOD Triglyc-174* HDL-84 CHOL/HD-3.2 
LDLcalc-147*
___ 05:40AM BLOOD CRP-8.6*
___ 05:40AM BLOOD TSH-0.88
___ 06:25AM BLOOD Valproa-85
___ 05:40AM BLOOD Valproa-113*
___ 11:51AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:00PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG

Imaging: 
___: Superior left frontal intraparenchymal hemorrhage 
measures
3.5 x 2.7 cm, stable in size compared to 4 hr ago. There is
increased local mass effect compared to 4 hr ago. There is no
midline shift. 
Left posterior parietal subgaleal hematoma is noted. Paranasal
sinus disease. 
  
CTA: 
Major intracranial and cervical arteries are patent without
occlusion, 
dissection, or aneurysm. 
  
Heavy atherosclerotic plaque at the left common carotid artery
and right vertebral artery origin narrows the lumen by more than
50%. 

CT cspine:
  
No traumatic malalignment is identified. No fractures are
identified. There is no evidence of spinal canal or neural
foraminal stenosis. There is no prevertebral soft tissue
swelling. There is no evidence of infection or neoplasm. 

___ 12:00PM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-___ year old man with epilepsy (likely primary generalized 
epilepsy) who was in his usual state of health until he came 
home at 18:30 and was altered and with evidence of facial/head 
trauma. While in the ___, he developed RUE and RLE 
weakness and was found to have a small cortical and subcortical 
left parietal intraparenchymal hemorrhage. He was electively 
intubated for transfer to ___. Admitted to neuro ICU where he 
was extubated the next day. Transferred to ___. 

Etiology of his hemorrhage was unknown. Vascular malformation 
remained high on the differential given young age and location 
of bleed. CTA showed no evidence of vascular malformation, and 
conventional angiogram was performed, which was also normal. 
Less likely hypertensive given location, less likely amyloid 
given age. Hemorrhagic metastasis remains possible, though we 
have no evidence of malignancy. 
MRI was attempted multiple times, including with anxiolysis, but 
Mr. ___ was not able to tolerate it due to claustrophobia. 
We will therefore obtain interval imaging with outpatient open 
MRI. 

Course complicated by hypertension, initially requiring 
nicardipine gtt to maintain SBP<150 in the setting of acute 
hemorrhage, subsequently stabilized on lisinopril and labetalol. 
At the time of discharge, we are continuing to cross-titrate 
lisinopril and labetalol. 
Course also complicated by urinary retention. Per patient 
preference we have been performing intermittent straight 
catheterization rather than foley placement. 
Additionally, he has current EtOH abuse, and has been monitored 
on CIWA. No signs of withdrawal during this admission. 
=================================
[ ] wean labetalol to off if tolerated. If hypertensive without 
beta-blockade, would consider once, or twice- daily medication 
such as Metoprolol XL or carvedilol for ease of medication 
regimen. 
[ ] consider starting medication to treat presumed BPH given 
persistent urinary retention. 
[ ] Two month interval MRI to be performed approx. ___. 
[ ] Monitor CIWA q8h for at least approx. ___ days. 
[ ] PCP consider starting statin no earlier than ___. 
[ ] PCP consider referring to therapist/psychiatrist for EtOH 
abuse
===================================
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valproic Acid ___ mg PO QAM 
2. Valproic Acid ___ mg PO QPM 
3. LORazepam 0.5-1 mg PO Q8H:PRN seizures 

 
Discharge Medications:
1.  Diazepam 5 mg PO Q6H:PRN CIWA>10 
RX *diazepam 5 mg 1 tab by mouth every 6 hours as needed Disp 
#*10 Tablet Refills:*0 
2.  Fluticasone Propionate NASAL 1 SPRY NU BID  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Labetalol 100 mg PO BID  
5.  Lisinopril 40 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Senna 8.6 mg PO BID:PRN Constipation  
8.  Thiamine 100 mg PO DAILY  
9.  LORazepam 0.5-1 mg PO Q8H:PRN seizures 
RX *lorazepam 1 mg ___ tab by mouth every 2 hours as needed 
Disp #*5 Tablet Refills:*0 
10.  Valproic Acid ___ mg PO QAM  
11.  Valproic Acid ___ mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute Hemorrhagic Stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.

Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of right-sided weakness 
resulting from an ACUTE HEMORRHAGIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High blood pressure

We are changing your medications, please take your medications 
as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___